US06264917B1
i) Synthesis of methyl 4-[(2,3-epoxy)propoxy]-phenylacetate
A mixture of methyl 4-hydroxyphenylacetate (4.98 g, 0.030 mol), epichlorohydrin (23.5 ml, 0.30 mol) and pyridine (121 μl, 1.5 mmol) was stirred at 85° C. for 2 hours. The reaction mixture was cooled and excess epichlorohydrin was distilled off (rotavapor). The residue was taken up in ethyl acetate, washed with brine and dried (Na2SO4). The solution was filtered and concentrated. The dark residue was chromatographed (silica, hexane/ethyl acetate 7:3) to give 2.25 g (34%) of a colourless oil. 1H (300 MHz) and 13C NMR (75 MHz) spectra were in accordance with the structure.

reactant | methyl 4-hydroxyphenylacetate | 0.030 mol, 4.98 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | epichlorohydrin | 0.30 mol, 23.5 ml | C(Cl)C1CO1 | C3H5ClO
reactant | pyridine | 1.5 mmol, 121 μl | N1=CC=CC=C1 | C5H5N
product | methyl 4-[(2,3-epoxy)propoxy]-phenylacetate | 2.25 g, 34% | O1C(COC2=CC=C(C=C2)CC(=O)OC)C1 | C12H14O4
